US08389500B2
To a solution of methane sulfonamide (308 mg, 1 mmol) in DMF:H2O (10 mL; 9:1), 4-trifluoromethyl phenylboronic acid (227 mg, 1.2 mmol) was added followed by sodium bicarbonate (252 mg, 3 mmol) and stirred under nitrogen for 5 min. To the reaction mixture Pd(PPh3)4 (55 mg, 0.05 mmol) was added and heated at 90° C. for 90 min. The reaction mixture was cooled, filtered through celite, washed with EtoAc (50 mL). The combined organics were washed with water, brine, dried over Na2SO4 and concentrated. The product (180 mg, 49%) was purified by preparative TLC by eluting with CH2Cl2.to give methyl 4-[(methylsulfonyl)amino]-4′-(trifluoromethyl)biphenyl-3-carboxylate, PT-121.

reactant | methane sulfonamide | 1 mmol, 308 mg | CS(=O)(=O)N | CH5NO2S
reactant | H2O | 10 mL | O | H2O
reactant | 4-trifluoromethyl phenylboronic acid | 1.2 mmol, 227 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium bicarbonate | 3 mmol, 252 mg | C([O-])(O)=O.[Na+]
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.05 mmol, 55 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4-[(methylsulfonyl)amino]-4′-(trifluoromethyl)biphenyl-3-carboxylate | CS(=O)(=O)NC1=C(C=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C(=O)OC | C16H14F3NO4S
